US03953500
To 60 ml. of dioxane are added 6.3 g. of 4-benzylindan-1-carboxylic acid and 2.8 g. of selenium dioxide and the mixture is refluxed for 12 hours. After cooling, water and chloroform are added and the insolubles are filtered off. The filtrate is extracted with chloroform and the chloroform layer is extracted with 5 % aqueous potassium carbonate. The extract is decolorized with activated carbon and rendered acidic with hydrochloric acid. The precipitate is extracted with chloroform and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is crystallized from a 20:7 solvent mixture of cyclohexane and benzene. The described procedure gives 4-benzoylindan-1-carboxylic acid as crystals melting at 100°-102°C.

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 4-benzylindan-1-carboxylic acid | C(C1=CC=CC=C1)C1=C2CCC(C2=CC=C1)C(=O)O | C17H16O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-benzoylindan-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)O | C17H14O3
